US07635700B2
To a stirred mixture of 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione (0.11 g, 0.35 mmol) in tetrahydrofuran (4 mL), was added methoxyacetyl chloride (0.06 mL, 0.70 mmol) and heated at 80° C. for one hour. The mixture was quenched with a few drops of methanol. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-2-methoxy-acetamide (44 mg, 35% yield) as a white solid; HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 6.77 min (96.3%); mp, 282-284° C.; 1HNMR (DMSO-d6) δ 2.20-2.22 (m, 1H, CHH), 2.60-2.85 (m, 6H, CHCH2, CH3), 3.40 (s, 3H, ° CH3), 4.04 (s, 2H, ° CH2), 5.30 (dd, J=6, 11 Hz, 1H, CH), 7.30-8.64 (m, 3H, Ar), 11.09 (s, 1H, NH), 12.31 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.77, 23.31, 30.62, 56.71, 59.04, 71.88, 107.95, 115.39, 120.94, 135.51, 138.89, 147.90, 154.84, 162.69, 169.12, 169.34, 172.64. LCMS MH=359; Anal Calcd For C17H18N4O5+0.7H2O: C, 55.04; H, 5.27; N, 15.10. Found: C, 54.75; H, 5.32; N, 14.91.

reactant | 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 0.35 mmol, 0.11 g | NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H14N4O3
reactant | methoxyacetyl chloride | 0.70 mmol, 0.06 mL | COCC(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-2-methoxy-acetamide | 44 mg, 35% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)NC(COC)=O)C)=O | C17H18N4O5
